US07612202B2
Another process for preparing Temozolomide is described in U.S. patent application having the Publication No. 2002/0095036 (see Scheme 4 below). In this process, the imine (V) is converted to 2-cyano-N-(1,1-dimethylethyl)-2-[(diphenyl-methylene)amino]-acetamide, which is converted to 2-amino-2-cyano-N-(1,1-dimethyl-ethyl)-acetamide hydrochloride. The latter is reacted with compound (VI) to obtain 5-amino-N4-(1,1-dimethylethyl)-N1-methyl-1H-imidazole-1,4-dicarboxamide, which is converted to 3,4-dihydro-N-(1,1-dimethylethyl)-3-methyl-imidazo-[5,1-d]-1,2,3,5-tetrazine-8-carboxamide (tert-butyl-Temozolomide), which yields Temozolomide under acidic treatment with concentrated sulfuric acid.

reactant | Temozolomide | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N | C6H6N6O2
reactant | 2-cyano-N-(1,1-dimethylethyl)-2-[(diphenyl-methylene)amino]-acetamide | C(#N)C(C(=O)NC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H21N3O
reactant | 2-amino-2-cyano-N-(1,1-dimethyl-ethyl)-acetamide hydrochloride | Cl.NC(C(=O)NC(C)(C)C)C#N
product | 5-amino-N4-(1,1-dimethylethyl)-N1-methyl-1H-imidazole-1,4-dicarboxamide | NC1=C(N=CN1C(=O)NC)C(=O)NC(C)(C)C | C10H17N5O2
